US09340556B2
To the solution of 2-(2-chloro-3,4-dimethoxyphenyl)ethanamine (2.8 g, 12.98 mmol) in dichloromethane (DCM) (40 mL) at 0° C. was added triethylamine (1.990 mL, 14.28 mmol) and ethyl chloroformate (1.371 mL, 14.28 mmol). The reaction mixture was stirred at room temperature for 12 hours. The resulting mixture was washed with water, brine, dried over magnesium sulfate and chromatographed to give ethyl 2-chloro-3,4-dimethoxyphenethylcarbamate (1.7 g, 5.91 mmol, 97% yield). LCMS (M+H)+: 288.1

reactant | 2-(2-chloro-3,4-dimethoxyphenyl)ethanamine | 12.98 mmol, 2.8 g | ClC1=C(C=CC(=C1OC)OC)CCN | C10H14ClNO2
reactant | triethylamine | 14.28 mmol, 1.990 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 14.28 mmol, 1.371 mL | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | ethyl 2-chloro-3,4-dimethoxyphenethylcarbamate | 5.91 mmol, 1.7 g, 97% yield | ClC1=C(CCNC(OCC)=O)C=CC(=C1OC)OC | C13H18ClNO4
